US04940771
Preparation of 2-(p-Hydroxyphenyl)Oxazoline
To a slurry of 18.10g (0.1 moles) of N-(2-hydroxy-ethyl)-p-hydroxybenzamide in 100 ml of ethyl acetate was added a solution of 23.80g (0.2 moles) of thionyl chloride in 25 ml of ethyl acetate. Thionyl chloride addition was slow enough to maintain the reaction temperature below 50° C. After 2 hours at room temperature the precipitate was collected by vacuum filtration and then dissolved in 200 ml of water. The solution was neutralized with 5% sodium hydroxide solution. The white precipitate which formed was collected by vacuum filtration and then dried in a vacuum oven at ≈70° C. overnight. This material was identified by NMR and IR spectroscopy as the desired 2-(p-hydroxyphenyl)-oxazoline. An 87% yield was obtained.

reactant | N-(2-hydroxy-ethyl)-p-hydroxybenzamide | 0.1 moles, 18.10g | OCCNC(C1=CC=C(C=C1)O)=O | C9H11NO3
reactant | thionyl chloride | 0.2 moles, 23.80g | S(=O)(Cl)Cl | Cl2OS
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 2-(p-Hydroxyphenyl)Oxazoline | OC1=CC=C(C=C1)C=1OCCN1 | C9H9NO2
